US09193693B2
Step 3. Methyl 3-(indolin-1-yl)-2-phenylquinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 3-(2-bromophenethylamino)-2-phenylquinoxaline-6-carboxylate (110 mg, 0.24 mmol, 1.00 equiv), Pd2(dba)3 (22 mg, 0.02 mmol, 0.10 equiv), BINAP (59.37 mg, 0.10 mmol, 0.40 equiv), Cs2CO3 (233 mg, 0.71 mmol, 3.00 equiv), 1,4-dioxane (5 mL). The resulting solution was stirred for overnight at 100° C. in an oil bath. The resulting solids were filtered out. The filtrate was concentrated under vacuum and applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 90 mg (99%) of methyl 3-(indolin-1-yl)-2-phenylquinoxaline-6-carboxylate as a orange solid.

reactant | methyl 3-(2-bromophenethylamino)-2-phenylquinoxaline-6-carboxylate | 0.24 mmol, 110 mg, 1.00 equiv | BrC1=C(CCNC=2C(=NC3=CC=C(C=C3N2)C(=O)OC)C2=CC=CC=C2)C=CC=C1 | C24H20BrN3O2
reactant | BINAP | 0.10 mmol, 59.37 mg, 0.40 equiv | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.71 mmol, 233 mg, 3.00 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.02 mmol, 22 mg, 0.10 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | Methyl 3-(indolin-1-yl)-2-phenylquinoxaline-6-carboxylate | N1(CCC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C24H19N3O2
